US08242145B2
Step 1: {3-[2-(2-Oxo-oxazolidin-3-ylmethyl)-4-pyridin-3-yl-phenoxy]-phenyl}-acetic acid methyl ester
Prepared according to the procedure described in Example 7, Step 1, using the following starting materials: {3-[4-bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester and 3-pyridineboronic acid.

reactant | {3-[4-bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN1C(OCC1)=O)=O | C19H18BrNO5
reactant | 3-pyridineboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | {3-[2-(2-Oxo-oxazolidin-3-ylmethyl)-4-pyridin-3-yl-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C=1C=NC=CC1)CN1C(OCC1)=O)=O | C24H22N2O5
